US07208494B2
A suspension consisting of 0.51 g (1.82 mmol) (R)-6-chloro-7-ethoxy-4-methyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one and 0.28 g (7.30 mmol) lithium aluminium hydride in 10 mL tert-butyl methyl ether was heated at reflux for 1 h. After cooling to room temperature the reaction mixture was poured into 10% aqueous sodium potassium tartrate solution and extracted twice with ethyl acetate. The organic fractions were washed with brine, dried over magnesium sulfate, filtered and evaporated. The so-obtained crude 6-chloro-7-ethoxy-4-methyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene was dissolved in 10 mL dichloromethane and 0.48 g (2.19 mmol) di-tert-butyl dicarbonate and 22.3 mg (0.18 mmol) 4-(dimethylamino)pyridine were added. After 1 h the solvent was evaporated and the residue was purified by column chromatography over silica gel (0.030–0.063 mm) with ethyl acetate:n-hexane (1:4) as eluant to give the product as a light yellow solid (63.9%).

reactant | (R)-6-chloro-7-ethoxy-4-methyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | 1.82 mmol, 0.51 g | ClC=1N=C2N3[C@@H](CNC(C3=CC2=CC1OCC)=O)C | C13H14ClN3O2
reactant | lithium aluminium hydride | 7.30 mmol, 0.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | tert-butyl methyl ether | 10 mL | COC(C)(C)C | C5H12O
product | 6-chloro-7-ethoxy-4-methyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene | ClC=1N=C2N3C(CNCC3=CC2=CC1OCC)C | C13H16ClN3O
